US04721791
A stirred suspension of 2-cyanoacetamide (790 mg, 9.40 mmol) in absolute ethanol (40 ml) was treated with sodium methoxide (495 mg, 9.16 mmol) and refluxed 10 minutes. The mixture was cooled slightly, a solution of 4-chloro-3-cyanobenzyl azide (1.35 g, 7.01 mmol) in absolute ethanol (10 ml) was added in one portion, and the mixture was refluxed 2.5 hours. The mixture was filtered hot, the solid was washed with absolute ethanol, and the combined filtrate and wash were evaporated to dryness under vacuum. The residue was triturated with diethyl ether, filtered, and washed twice with diethyl ether. The solid was recrystallized from methanol (6 ml) and dried at 65° C. under vacuum to provide 635 mg (24%) 5-amino-1-(4-chloro-3-cyanobenzyl)-1,2,3-triazole-4-carboxamide, m.p. 172°-175° C.

reactant | 2-cyanoacetamide | 9.40 mmol, 790 mg | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 9.16 mmol, 495 mg | C[O-].[Na+]
reactant | 4-chloro-3-cyanobenzyl azide | 7.01 mmol, 1.35 g | ClC1=C(C=C(CN=[N+]=[N-])C=C1)C#N | C8H5ClN4
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-amino-1-(4-chloro-3-cyanobenzyl)-1,2,3-triazole-4-carboxamide | 635 mg, 24% | NC1=C(N=NN1CC1=CC(=C(C=C1)Cl)C#N)C(=O)N | C11H9ClN6O
